US08558009B2
1-(2-Bromoethyl)-1H-pyrrole-2-carbaldehyde (compound no. 52)
A mixture of 2-butylpyrrole (1 g), potassium hydroxide (23 g) and dry DMSO (20 mL) was stirred under nitrogen atmosphere. 1,2-dibromoethane (7.9 g) was added dropwise at 20-25° C. and stirred till the reaction is complete. Water (50 mL) was added and the reaction mixture was extracted with diethyl ether (3×50 mL). The combined organic layer was washed with water (30 mL), followed by brine (30 mL) and was dried over Na2SO4. The solvent was evaporated and the compound obtained was purified by column chromatography (silica gel 100-200) using ethyl acetate:hexane (2:8) as an eluent to obtain the title compound.

reactant | 2-butylpyrrole | 1 g | C(CCC)C=1NC=CC1 | C8H13N
reactant | potassium hydroxide | 23 g | [OH-].[K+]
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
reactant | 1,2-dibromoethane | 7.9 g | BrCCBr | C2H4Br2
solvent | Water | 50 mL | O | H2O
product | 1-(2-Bromoethyl)-1H-pyrrole-2-carbaldehyde | BrCCN1C(=CC=C1)C=O | C7H8BrNO
